data/pmechdb/original/mc_train_fold0/raw/train.txt
C[Si](C)(C)CCOC(=O)NC1CCC(CC1)C(=N)O[C:20](C(F)(F)F)([O-:10])[O:21]C(=O)C(F)(F)F.CC[NH+](CC)CC>>C[Si](C)(C)CCOC(=O)NC1CCC(CC1)C(=N)O[C:20](=[O:10])C(F)(F)F.C(=O)(C(F)(F)F)[O-:21].CC[NH+](CC)CC 10=20;20,21=21
[H:20][Cl:21].C[C:11]1=[CH:10]CCCCC1(C)C>>[H:20][CH:10]1CCCCC([C+:11]1C)(C)C.[Cl-:21] 10,11=10,20;20,21=21
C[OH:10].CO[C:20](=[OH+:21])O>>C[OH+:10][C:20](O)([OH:21])OC 10=20;20,21=21
[H:20][O:21]C(=O)C.C1CC[NH+](CC1)C(CC2=CC=CC=C2)[O-:10].COC(=O)CC(=O)O>>[H:20][O:10]C(CC1=CC=CC=C1)[NH+]2CCCCC2.CC(=O)[O-:21].COC(=O)CC(=O)O 10=20;20,21=21
C1CC[N:10](C(C1)C(=O)O)[CH:20](CCC[N+](=O)[O-])[OH2+:21].CC(=O)[O-]>>C1CC[N+:10](=[CH:20]CCC[N+](=O)[O-])C(C1)C(=O)O.[OH2:21].CC(=O)[O-] 10=20;20,21=21
C[O:21][CH:20](N)[O-:10]>>C[O-:21].[CH:20](=[O:10])N 10=20;20,21=21
[H:20][NH+:21](CCCC)C1(CCCC2=C(C=NC=C21)Br)O.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][N+:10]1=CC=CC=C1.CCCC[NH:21]C1(CCCC2=C(C=NC=C21)Br)O.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(=O)C(C)(C)C.CCOC(C)(OCC)[O:10]CC.CC12COC(=O)C1(C(C=C2CO)O[Si](C)(C)C(C)(C)C)C>>[H:20][O+:10](CC)C(C)(OCC)OCC.CC(C)(C)C(=O)[O-:21].CC12COC(=O)C1(C(C=C2CO)O[Si](C)(C)C(C)(C)C)C 10=20;20,21=21
CCCC(CC(C)C)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCC(CC(C)C)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
CN1C=C(C(=O)C2=C1N([C:11](=[CH:10][C:20]2(N3CCCC3)[Cl:21])[O-:12])C)C(=O)OC.CC[NH+](CC)CC>>CN1C=C(C(=O)C2=C1N([C:11](=[O:12])[CH:10]=[C:20]2N3CCCC3)C)C(=O)OC.[Cl-:21].CC[NH+](CC)CC 10,11=10,20;20,21=21;12=11
C=[C+:20]C1=CC=CC=C1.[Br-:10]>>C=[C:20](C1=CC=CC=C1)[Br:10] 10=20,
CCCC[NH2:10].C1CC2=C(C=NC=C2Br)[C:20](=[O:21])C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1>>CCCC[NH2+:10][C:20]1(CCCC2=C1C=NC=C2Br)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1 10=20;20,21=21
C1=CC(=CC(=C1)[C:20](=[OH+:21])CCC(=[O:10])C2=CC=C(C=C2)Br)Br.CO.[Cl-]>>C1C[C:20]([O+:10]=C1C2=CC=C(C=C2)Br)(C3=CC=CC(=C3)Br)[OH:21].CO.[Cl-] 10=20;20,21=21
C[NH:10][CH2:20][I:21]>>C[NH+:10]=[CH2:20].[I-:21] 10=20;20,21=21
CCOC(=O)CC[C:20](=[OH+:21])C[O:12][C:11]1=[CH:10]C(=C2C=CC=CC2=C1OC)C.C(F)(F)(F)S(=O)(=O)[O-]>>CCOC(=O)CC[C:20]1(C[O+:12]=[C:11]2[CH:10]1C(=C3C=CC=CC3=C2OC)C)[OH:21].C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][N+:21](=CC)O.[NH2:10]O>>[H:20][NH2+:10]O.CC=[N:21]O 10=20;20,21=21
CCC([O-])[O+:11](C)[K:10]>>CCC([O-])[O:11]C.[K+:10] 10,11=11
[H:20][O:21]C(=O)C.C1=CC=C(C=C1)CNC(CCC(=O)C2=CC=CC=C2)(C3=CC=CC=C3)[OH:10]>>[H:20][OH+:10]C(CCC(=O)C1=CC=CC=C1)(C2=CC=CC=C2)NCC3=CC=CC=C3.CC(=O)[O-:21] 10=20;20,21=21
C[C:20](CCC=C[O-])([NH+:21]1CCCC1)[OH:10]>>C[C:20](=[OH+:10])CCC=C[O-].C1CC[NH:21]C1 10=20;20,21=21
[H:20][CH:21]([C:22](=[OH+:23])C)C(=O)OCC.C1CC[NH:10]CC1.CCC(C)CC=[N+]1CCCCC1.CC(=O)[O-].O>>[H:20][NH+:10]1CCCCC1.CCOC(=O)[CH:21]=[C:22](C)[OH:23].CCC(C)CC=[N+]1CCCCC1.CC(=O)[O-].O 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C=CC=C([CH+:22]1)C(F)(F)F)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22]C(=C1)C(F)(F)F)S(=O)(=O)O 10=20;20,21=21,22
CO[C:20]([NH3+:21])(O)[OH:10]>>CO[C:20](=[OH+:10])O.[NH3:21] 10=20;20,21=21
CC1CCC=CC(=[O+:11][Si-:10](C)(C)(C)N2CCC[N+]3=C2CCCCC3)C1.[I-]>>CC1CCC=CC(=[O:11])C1.C[Si:10](C)(C)N1CCC[N+]2=C1CCCCC2.[I-] 10,11=11
[H:20][O+:21]1CCOC12CCCCC2.OS(=O)(=O)[O-:10]>>C1CCC2(CC1)OCC[O:21]2.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
[H:20][OH2+:21].CC1(CCCC1)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C1(CCCC1)C.[OH2:21] 10,11=10,20;20,21=21
CC(C)(CO)C[O:10][CH:20](C1=CC(=C(C=C1)OC)Br)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1>>CC(C)(CO)C[O+:10]=[CH:20]C1=CC(=C(C=C1)OC)Br.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1 10=20;20,21=21
C=[C+:20]C1=CC=CC=C1.[OH2:10]>>C=[C:20](C1=CC=CC=C1)[OH2+:10] 10=20,
C[C+:20]=O.C1=CS[CH:10]=[CH:11]1>>C[C:20](=O)[CH:10]1[CH+:11]C=CS1 10,11=10,20
[H:20][C:21](C1=CC=CS1)([C:22]2=[N+:23](C(=C(S2)CCO)C)CC3=CC=CC=C3)O.CC[N:10](CC)CC.CC(C)O.C1OC2=C(O1)C=C(C=C2)C=CC(=O)C3=CC=CS3.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(S[C:22](=[C:21](C2=CC=CS2)O)[N:23]1CC3=CC=CC=C3)CCO.CC(C)O.C1OC2=C(O1)C=C(C=C2)C=CC(=O)C3=CC=CS3.[Cl-] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].CCCC=C(C)C=[N:10]C(C)(C)C>>[H:20][N+:10](=CC(=CCCC)C)C(C)(C)C.[OH2:21] 10=20;20,21=21
CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+]3=[C:21](SC(=C3C)CCO)[C:20](CCCOCC4=CC=CC=C4)(C(CC(=O)C5=CC=CC=C5)C6=CC=CC=C6)[O-:10])CCO.CC[NH+](CC)CC.CCO.[Br-]>>CC1=C(SC=[N+]1CC2=CC=C(C=C2)CC[N+]3=[C-:21]SC(=C3C)CCO)CCO.C1=CC=C(C=C1)COCCC[C:20](=[O:10])C(CC(=O)C2=CC=CC=C2)C3=CC=CC=C3.CC[NH+](CC)CC.CCO.[Br-] 10=20;20,21=21
CC1CC[CH+]C(C1)[Sn:20](C)(C)C.CC(=O)[O-:10]>>CC1CC[CH+]C(C1)[Sn-:20](C)(C)(C)[O:10]C(=O)C 10=20,
CC1C(=C(C2C#CC=CC#CC3C14C2(O4)C5=C(N3C(=O)[O-])C=CC(=C5)[O:11][Si-:10](C)(C)(C(C)C)F)OC)C(=O)OCOC.CCCC[N+](CCCC)(CCCC)CCCC.C[Si](C)(C)F.C=C>>CC1C(=C(C2C#CC=CC#CC3C14C2(O4)C5=C(N3C(=O)[O-])C=CC(=C5)[O-:11])OC)C(=O)OCOC.CC(C)[Si:10](C)(C)F.CCCC[N+](CCCC)(CCCC)CCCC.C[Si](C)(C)F.C=C 10,11=11
